US07297816B2
(S)-3-(3-Bromo-4-fluoro-phenyl)-2-[4,5-dichloro-2-(quinoxaline-5-sulfonylamino)-benzoylamino]-propionic acid
The title compound was prepared from 3-bromo-4-fluoro-L-phenylalanine methyl ester hydrochloride and 4,5-dichloro-2-(quinoxaline-5-sulfonylamino)-benzoic acid (prepared from quinoxaline-5-sulfonyl chloride as in EXAMPLE 14, Part A) as in Example 1, Part C, followed by hydrolysis of the resulting methyl ester as in Example 2, Part E. HPLC: RT=9.91 min. MS (ESI−): mass calcd. for C24H16BrCl2FN4O5S, 642.28; m/z found, 639/641/643 [M−H]−. 1H NMR (400 MHz, acetone-d6): 11.49 (s, 1H), 9.00-8.93 (m, 2H), 8.62-8.57 (m, 1H), 8.37-8.32 (m, 1H), 8.20-8.12 (m, 1H), 8.05-7.97 (m, 1H), 7.93-7.88 (m, 1H), 7.73-7.67 (m, 1H), 7.65-7.61 (m, 1H), 7.41-7.33 (m, 1H), 7.25-7.15 (m, 1H), 5.00-4.90 (m, 1H), 3.38-3.28 (m, 1H), 3.18-3.10 (m, 1H).

reactant | 3-bromo-4-fluoro-L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC(=C(C=C1)F)Br)=O
reactant | 4,5-dichloro-2-(quinoxaline-5-sulfonylamino)-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1Cl)NS(=O)(=O)C=1C=2N=CC=NC2C=CC1 | C15H9Cl2N3O4S
reactant | quinoxaline-5-sulfonyl chloride | N1=CC=NC=2C(=CC=CC12)S(=O)(=O)Cl | C8H5ClN2O2S
product | (S)-3-(3-Bromo-4-fluoro-phenyl)-2-[4,5-dichloro-2-(quinoxaline-5-sulfonylamino)-benzoylamino]-propionic acid | BrC=1C=C(C=CC1F)C[C@@H](C(=O)O)NC(C1=C(C=C(C(=C1)Cl)Cl)NS(=O)(=O)C=1C=2N=CC=NC2C=CC1)=O | C24H16BrCl2FN4O5S
